US04931083
3-(1-ethoxycarbonylethoxy)-1-(3-fluorophenyl)-1,2,4-1H-triazole
A 1.7 g portion of sodium was dissolved in 50 ml of absolute ethanol, and that solution was added to a solution of 13.3 g of 1-(3-fluorophenyl)-3-hydroxy-1,2,4-1H-triazole in 150 ml of dimethylsulfoxide. The solution was heated on the steam bath for 15 minutes, and then 13.5 g of ethyl 2-bromopropionate was added and the mixture was held on the steam bath for 2 hours. It was then poured over ice-water, and the aqueous mixture was extracted with diethyl ether. The organic layer was washed with water and with brine, and was then dried with sodium sulfate and phase separation paper. The solvent was removed under vacuum, and the product was recrystallized from aqueous ethanol to obtain 6.7 g of the desired product, m.p. 35°-37°.

reactant | sodium | [Na] | Na
reactant | 1-(3-fluorophenyl)-3-hydroxy-1,2,4-1H-triazole | 13.3 g | FC=1C=C(C=CC1)N1N=C(N=C1)O | C8H6FN3O
reactant | ethyl 2-bromopropionate | 13.5 g | BrC(C(=O)OCC)C | C5H9BrO2
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | dimethylsulfoxide | 150 ml | CS(=O)C | C2H6OS
product | 3-(1-ethoxycarbonylethoxy)-1-(3-fluorophenyl)-1,2,4-1H-triazole | 6.7 g | C(C)OC(=O)C(C)OC1=NN(C=N1)C1=CC(=CC=C1)F | C13H14FN3O3
